US09334290B2
A solution of 3-(3-bromo-2-methylphenyl)-8-chloro-1-methylquinazoline-2,4(1H,3H)-dione (1.14 g, 3.00 mmol) in dioxane (20 mL) was treated with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.915 g, 3.60 mmol), potassium acetate (0.884 g, 9.01 mmol), and PdCl2(dppf) DCM adduct (0.123 g, 0.150 mmol). The mixture was sealed in a pressure reaction vial and heated at 110° C. for 4 h. The cooled mixture was diluted with EtOAc, filtered through CELITE®, and the filtrate was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (80 g), eluting with EtOAc-hexanes (gradient from 20-50%), to give 8-chloro-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H)-dione as a white solid (1.00 g, 78% yield). Mass spectrum m/z 427 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.23 (dd, J=7.8, 1.7 Hz, 1H), 7.93 (dd, J=7.5, 1.3 Hz, 1H), 7.76 (dd, J=7.9, 1.5 Hz, 1H), 7.37-7.31 (m, 1H), 7.27-7.20 (m, 2H), 3.94 (s, 3H), 2.36 (s, 3H), 1.36 (s, 15H).

reactant | 3-(3-bromo-2-methylphenyl)-8-chloro-1-methylquinazoline-2,4(1H,3H)-dione | 3.00 mmol, 1.14 g | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)Cl)C)=O)C | C16H12BrClN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.60 mmol, 0.915 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.01 mmol, 0.884 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.150 mmol, 0.123 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 8-chloro-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H)-dione | 1.00 g, 78% yield | ClC=1C=CC=C2C(N(C(N(C12)C)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C22H24BClN2O4
